US07875639B2
2-(2-amino-4-methylthiazol-5-yl)-1,1,1,3,3,3-hexafluoropropan-2-ol
The title compound was prepared from commercially available of 4-methylthiazol-2-amine (Aldrich) and hexafluoroacetone trihydrate (Aldrich) according to the procedure described in European Journal of Organic Chemistry, (21), 4286-4291; 2003. MS (ESI+) m/z 281 (M+H)+.

reactant | 4-methylthiazol-2-amine | CC=1N=C(SC1)N | C4H6N2S
reactant | hexafluoroacetone trihydrate | O.O.O.FC(C(=O)C(F)(F)F)(F)F
product | 2-(2-amino-4-methylthiazol-5-yl)-1,1,1,3,3,3-hexafluoropropan-2-ol | NC=1SC(=C(N1)C)C(C(F)(F)F)(C(F)(F)F)O | C7H6F6N2OS
